US07230098B2
6-Bromo-3H-oxazolo[4,5-b]pyridin-2-one (21.5 g, 100 mmol) was suspended in NaOH solution (2N, 250 mL, 500 mmol). The mixture was refluxed overnight and a clear solution was obtained. After cooling to room temperature, the reaction solution was neutralized to pH ˜7. A lot of CO2 was released and also precipitate was observed. The product was filtered, washed with water, and dried under high vacuum to provide 2-amino-5-bromo-pyridin-3-ol as an off-white solid (17.8 g, 98% yield).

reactant | 6-Bromo-3H-oxazolo[4,5-b]pyridin-2-one | 100 mmol, 21.5 g | BrC=1C=C2C(=NC1)NC(O2)=O | C6H3BrN2O2
reactant | NaOH | 500 mmol, 2N, 250 mL | [OH-].[Na+]
reactant | CO2 | C(=O)=O | CO2
product | 2-amino-5-bromo-pyridin-3-ol | 17.8 g, 98% yield | NC1=NC=C(C=C1O)Br | C5H5BrN2O
